US09193694B2
(S)-3-(2-hydroxyethyl)-1-methyl-7-(4-(trifluoromethoxy)phenyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione (Compound X-1)
1-Methyl-6-(4-(trifluoromethoxy)phenyl)-1H-benzo[d][1,3]oxazine-2,4-dione (60 mg, 0.178 mmol) and L-homoserine (23.3 mg, 0.196 mmol, 1.1 equiv.) were added to a magnetically stirred 0.5-2 mL Smith process vial containing 0.75 mL glacial acetic acid. Reaction mixture was then heated for 2 hours at 130° C. Excess acetic acid was then removed en vacuo, residue was dissolved into a minimal amount of acetonitrile and purified by reverse-phase preparative HPLC to give the title compound (7.6 mg) following removal of solvent as a clear yellow film.

reactant | 1-Methyl-6-(4-(trifluoromethoxy)phenyl)-1H-benzo[d][1,3]oxazine-2,4-dione | 0.178 mmol, 60 mg | CN1C(OC(C2=C1C=CC(=C2)C2=CC=C(C=C2)OC(F)(F)F)=O)=O | C16H10F3NO4
reactant | L-homoserine | 0.196 mmol, 23.3 mg, 1.1 equiv. | N[C@@H](CCO)C(=O)O | C4H9NO3
solvent | acetic acid | 0.75 mL | C(C)(=O)O | C2H4O2
product | (S)-3-(2-hydroxyethyl)-1-methyl-7-(4-(trifluoromethoxy)phenyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | 7.6 mg | OCC[C@@H]1NC(C2=C(N(C1=O)C)C=CC(=C2)C2=CC=C(C=C2)OC(F)(F)F)=O | C19H17F3N2O4
